US05438052
4-(7-Mercapto-5-methyl-s-triazolo[1,5-a]pyrimidin-2-yl)pyrocatechol (1.8 g) and 1.63 g of 7-amino-cephalosporanic acid are suspended in 30 ml of a 1:1 mixture of dichloromethane and sulpholane. 2.63 g of boron trifluoride etherate are added thereto at 3° C. and the solution is left at the same temperature for 11/2 hours. Thereafter, it is diluted dropwise with 60 ml of dichloromethane, the resulting precipitate is filtered off under suction, rinsed with diethyl ether and dissolved immediately in 40 ml of water. Sufficient 20% aqueous sodium hydroxide solution is added while cooling with ice until pH 3.1 has been reached, whereby the product precipitates. This is filtered off under suction, washed with a small amount of water and finally with 20 ml of acetone and dried in a vacuum at 0.1 mmHg. There are obtained 2.17 g of (6R,7R)-7-amino-3-[[[2-(3,4-dihydroxyphenyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7 -yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid.

reactant | 4-(7-Mercapto-5-methyl-s-triazolo[1,5-a]pyrimidin-2-yl)pyrocatechol | 1.8 g | SC1=CC(=NC=2N1N=C(N2)C=2C=C(C(O)=CC2)O)C | C12H10N4O2S
reactant | 7-amino-cephalosporanic acid | 1.63 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | sulpholane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | boron trifluoride etherate | 2.63 g | B(F)(F)F.CCOCC
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (6R,7R)-7-amino-3-[[[2-(3,4-dihydroxyphenyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7 -yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 2.17 g | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C2=CC(=C(C=C2)O)O)C | C20H18N6O5S2
